US06423713B1
To a suspension of 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxamide prepared as set forth in Example A-223 (2.9 g, 0.01 mol) in 50 mL of methanol was added N,N-dimethylformamide dimethyl acetal (3.67 g, 0.03 mol) dropwise. The reaction mixture was stirred at room temperature overnight and heated at reflux for 4hours. After cooling, the precipitate was collected by filtration and air-dried to give 2.0 g of methyl 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxylate as a white solid (69% yield), mp: 239-241° C. Anal. Calc'd for C16H12FN3O2: C, 64.64; H, 4.07; N, 14.13. Found: C, 64.36; H, 4.10; N, 14.27.

reactant | 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxamide | FC1=CC=C(C=C1)C1=NNC=C1C1=CC(=NC=C1)C(=O)N | C15H11FN4O
reactant | N,N-dimethylformamide dimethyl acetal | 0.03 mol, 3.67 g | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 50 mL | CO | CH4O
product | methyl 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxylate | 2.0 g, 69% yield | FC1=CC=C(C=C1)C1=NNC=C1C1=CC(=NC=C1)C(=O)OC | C16H12FN3O2
